.SubCkt GRJ155R60J106ME11 _net1 _net2
.param K01=8.1824e-06
.param M01=5.0000e+06
.param L02=1.5914e-10
.param M03=8.2421e-03
.param K04=4.3619e-04
.param M04=3.7586e+00
.param K05=5.8239e-04
.param M05=2.9175e-01
.param K06=6.2004e-04
.param M06=3.4301e-02
.param K07=4.0743e-04
.param M07=4.5036e-03
.param L08=1.1757e-11
.param M08=3.2221e-01
.param L09=2.5610e-11
.param M09=1.0034e-01
.param L10=5.6997e-11
.param M10=3.0110e-02
.param L11=2.1072e-10
.param M11=1.3233e-02
.param K12=4.1628e-05
.param L12=3.2976e-11
.param M12=1.4275e-03
.param K13=1.1753e-05
.param L13=5.6882e-11
.param M13=2.4288e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 
